Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses
 
Attending: ___.
 
Chief Complaint:
Rectal bleeding noted on night prior to admission
 
Major Surgical or Invasive Procedure:
Colonoscopy ___ & ___: aborted due to poor bowel prep

 
History of Present Illness:
Mr. ___ is a ___ male with history of CLL on
ibrutinib, non-seminoma testicular GCT (T2N2M1a, stage IIIA) s/p
EP x4 completed ___ with normalization of markers and 
residual
LAD <1 cm (now on surveillance), CAD s/p LAD PCI in ___, SSS
s/p PPM, paroxysmal atrial fibrillation on rivaroxaban, CVA,
DMII, depression who presents for BRBPR.

Patient reports BRBPR since 5PM on Wednessday. He first noticed
the bleeding when he took off his bathrobe to take a shower. He
wiped the area with a towel and noted to have dark red blood. He
reports having a colonoscopy about ___ years ago. He notes
continued rectal bleeding. He also noticed increasing bruising
over his forearms. He denies any other symptoms.

On arrival to the ED, initial vitals were 97.4 100 122/80 22 98%
RA. Exam notable for red blood on rectal. Labs were notable for
WBC 31.8, H/H 10.1/30.6 (at baseline), Plt 156, INR 0.9, Na 133,
K 3.9, BUN/Cr ___, lactate 1.1, and UA negative. Urine 
culture
was sent. No imaging obtained. No medications given. GI was
consulted and recommended admission and prep for colonoscopy.
Prior to transfer vitals were 97.5 67 149/60 18 97% RA.

On arrival to the floor, patient reports feeling like his blood
sugar is low. He also notes pain on his tailbone due to a fall 
___
years ago and lying in bed all day. He denies fevers/chills,
night sweats, headache, vision changes,
dizziness/lightheadedness, shortness of breath, cough,
hemoptysis, chest pain, palpitations, abdominal pain,
nausea/vomiting, diarrhea, hematemesis, dysuria, and hematuria.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
CLL (17p-) and Stage IIIA Mixed germ cell tumor of the testis
-___: Lymphocytosis incidentally found during a psychiatric
hospitalization.
-___: CT scan showed a slightly enlarged spleen at 14.5 cm 
and
no adenopathy.
-___: He met with Dr. ___ in ___ at
___. WBC was 15.0 with 49.6% lymphocytes, Hgb 11.9,
and platelets 260,000. Flow cytometry was consistent with CLL,
and B-cell gene rearrangement confirmed clonality. CLL FISH 
panel
showed a p53 mutation. He was asymptomatic at the time of
diagnosis and followed with Dr. ___. 
-WBC gradually uptrended to 22.7 in ___, 37.3 in ___, 
51.3
in ___, and 50.4 on ___. Hgb has decreased slightly to
10.9 and Hct 34.4 with platelets 234,000 on the ___ labs. 
-___: Hematology care transitioned to Dr. ___
after Dr. ___. He also started having nightly sweats. 

-___: CT Chest without lymphadenopathy or other notable
findings.
-___: Initial ___ Hematology evaluation for second
opinion. WBC 50.7, Hgb 10.5, Hct 33.2, Plt 226. Peripheral blood
flow cytometry and cytogenetics confirmed CLL with TP53 
deletion.
-___: CT Abdomen/Pelvis without lymphadenopathy or other
notable findings.
-___: Started ibrutinib 420 mg daily.
-___: Ibrutinib held for vitreous bleed
-___: Ibrutinib restarted
-___: Per OSH records, underwent scrotal U/S showing
heterogeneous left testicle, prominent rete testis on right.
-___: Presented to his outpatient hematologist, Dr. 
___ a painful swollen left testicle (swelling over ~8 months,
worsening pain).  This had been evaluated on ___ with an
ultrasound that did not demonstrate torsion but did show
heterogeneous morphology of the left testicle.  HCG was 
positive.
Referred to Dr. ___.
-___: ibrutinib held for surgery
-___: Underwent left radical orchiectomy.  Pathology
revealed 3.9 cm malignant mixed germ cell tumor of the testis,
95% embryonal carcinoma, 2% teratoma, 2% yolk sac tumor, 1%
choriocarcinoma, invading hilar statin ___ vaginalis, with
lymphatic vascular invasion and metastatic tumor nodules in the
spermatic cord.  pT2NxS1 (although no post-orch levels, beta hCG
64 on ___, up from 21 on ___ AFP 3, LDH normal).
-___: CT torso showing new 8 mm nodule in the left lower
lobe, and comparison with CT ___.
Left para-aortic lymphadenopathy up to 2.8 cm and a 3.5 cm fluid
collection in the left inguinal region/scrotum, felt to be 
likely
postsurgical.
-___: C1D1 EP
-___: C2D1 EP 

PAST MEDICAL HISTORY:
-Sick sinus syndrome s/p PPM ___ Revo DDD, 
MRI-compatible,
___
-CAD s/p DES to mid-LAD in ___. Preserved LVEF in ___.
-Stroke ___
-Diabetes mellitus type II on insulin
-Hypertension
-Hyperlipidemia
-Morbid obesitys/p Gastric bypass surgery ___
-Obstructive sleep apnea - not on CPAP
-Pancreatitis ___ related to alcohol
-s/p Cholecystectomy
-Hypothyroidism
-Osteoarthritis
-s/p Bilateral shoulder surgery, chronic pain
-Major depression with psychotic features (vs schizoaffective
disorder per patient) (Dr. ___ name unknown, affiliated
with ___)
-Anxiety
-Conversion disorder
-Benign paroxysmal positional vertigo
-Glaucoma, cataract (Dr. ___ at ___)

 
Social History:
___
Family History:
No known history of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 97.7, BP 159/76, HR 62, RR 18, O2 sat 96% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Obese, soft, non-tender, non-distended, normal bowel 
sounds.
EXT: Warm, well perfused, 1+ bilateral lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: Bruising on bilateral upper extremities.
ACCESS: Right chest wall port without erythema.

DISCHARGE PHYSICAL EXAM:
========================
VITALS - Reviewed in E flowsheets
GENERAL - in no distress 
EYES - anicteric 
ENT - moist mucous membranes 
CV - regular, normal S1/S2
RESPIRATORY - lungs clear bilaterally, breathing comfortably 
GI - soft, non-tender 
MUSCULOSKELETAL - no edema 
NEUROLOGIC - face symmetric, gaze conjugate, speech fluent,
oriented x4
PSYCHIATRIC - pleasant but flattened 
INTEGUMENTARY - pale 
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:00AM BLOOD WBC-29.0* RBC-3.73* Hgb-10.8* Hct-31.6* 
MCV-85 MCH-29.0 MCHC-34.2 RDW-13.7 RDWSD-42.4 Plt ___
___ 09:40PM BLOOD ___ PTT-36.0 ___
___ 11:00AM BLOOD UreaN-15 Creat-1.1 Na-132* K-3.9 Cl-93* 
HCO3-26 AnGap-13
___ 11:00AM BLOOD Albumin-4.2 Calcium-8.9 Phos-4.4 Mg-1.7
___ 11:00AM BLOOD %HbA1c-7.8* eAG-177*

RELEVANT INTERVAL LABS
======================
___ 04:13AM BLOOD Glucose-175* UreaN-3* Creat-0.9 Na-125* 
K-3.9 Cl-85* HCO3-26 AnGap-14
___ 03:36AM BLOOD Cortsol-8.2
___ 04:13AM BLOOD Osmolal-266*

STUDIES
=======
___ CT ABDOMEN/PELVIS W/ CONTRAST
1. Fluid in the colon can be correlated with diarrhea.  No 
imaging findings of colitis or bowel obstruction.  
Redemonstration of findings of gastrogastric fistula. 
2. No new lymphadenopathy or definite evidence of metastatic 
disease. 

___ COLONSCOPY
Aborted due to poor preparation

___ Colonoscopy:
Polyps in the cecum and descending colon (polypectomy)
Diffuse melanosis noted throughout the colon.
Internal hemorrhoids
Otherwise normal colonoscopy to cecum 

DISCHARGE LABS
==============
___ 10:47AM BLOOD WBC-14.3* RBC-3.11* Hgb-9.0* Hct-27.0* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-14.5 RDWSD-44.5 Plt ___
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of CLL on 
ibrutinib, non-seminoma testicular GCT (T2N2M1a, stage IIIA) s/p 
EP x4 completed ___ with normalization of markers and 
residual LAD <1 cm (now on surveillance), CAD s/p LAD PCI in 
___, SSS s/p PPM, paroxysmal atrial fibrillation on 
rivaroxaban, CVA, DMII, depression who presented with BRBPR.

ACUTE ISSUES:
# GI Bleed:
# Acute on chronic normocytic anemia with acute blood loss: Hgb 
remained stable during hospitlization, without any transfusion 
requirement. Vitals remained stable as well. No significant 
bleeding observed while hospitalized. Patient required extremely 
prolonged colonoscopy preparation (>4 days, with 15+ MoviPrep & 
magnesium citrate, with 2 colonoscopies with inadequate 
preparation. Colonsocopy ultimately revealed two benign 
appearing polyps which were biopsied as well as internal 
hemorrhoids. Clopidogrel stopped, after discussion with 
cardiologist, as >12 months after PCI/stenting. Ibrutinib & 
rivaroxaban held, per discussion with oncologist, Dr. ___, 
___ restarted at discharge. Aspirin dose decreased to 81 mg 
daily

# Hyponatremia: developed during bowel preparation. Improved 
with IV NS

CHRONIC ISSUES:
# CLL: WBC remained mostly stable. Ibrutinib held, as above, and 
restarted at discharge. Continued home acyclovir. 

# Testicular Cancer: He is s/p treatment with 
etoposide/cisplatin with plan for surveillance. Follow-up with 
Dr. ___ as scheduled. 

# DMII complicated by
# Hypoglycemia: Unclear etiology. Long acting insulin was 
transiently held during limited po intake with bowel prep and 
adjusted during hospitalization. Discharged on lantus 50 units 
BID but will require close monitoring (and likely uptitration) 
as an outpatient

# CAD s/p PCI:
# Chronic Diastolic Heart Failure: Per d/w pt's cardiologist Dr. 
___ on ___, ok to decrease home ASA from 243 to 81mg daily 
and to discontinue clopidogrel  altogether as it has been >12 
months since last PCI. Continued home atorvastatin and 
fenofibrate. Held home Lasix and losartan in setting of GI 
bleed. Home dose metoprolol initially held but restarted ___

# Paroxysmal Atrial Fibrillation:
# History of CVA:
# SSS s/p PPM:
Held home rivaroxaban in setting of GI bleed. Resumed home-dose 
metoprolol ___ ___, resumed rivaroxaban at discharge

# Depression/Anxiety
Continued home trazodone, ziprasidone, fluoxetine, clonidine, 
and divalproex. Added PRN low-dose lorazepam for increased 
anxiety while hospitalized, discontinued at discharge

# Hypothyroidism
Continued home levothyroxine

# Chronic Back/Shoulder Pain
Continue home Vicodin, gabapentin, and lidocaine. Pt received 
PRN one-time doses of IV morphine for breakthrough pain with 
good effect

Transitional Issues:
====================
- biopsy results from colonoscopy pending at discharge
- clopidogrel stopped
- ASA decreased to 81mg daily
- persistently hypoglycemic requiring D10W drip though this was 
in the setting of NPO and colonoscopy prep. Lantus decreased to 
50 units BID, please increase as an outpatient prn

> 30 minutes spent on discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q8H 
2. Aspirin 243 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. CloNIDine 0.1 mg PO TID 
5. Clopidogrel 75 mg PO DAILY 
6. Divalproex (EXTended Release) 500 mg PO QAM 
7. Divalproex (EXTended Release) 750 mg PO QPM 
8. Docusate Sodium 100 mg PO BID constipation 
9. Fenofibrate 150 mg PO DAILY 
10. FLUoxetine 20 mg PO DAILY 
11. Furosemide 20 mg PO DAILY 
12. Gabapentin 300 mg PO TID 
13. Levothyroxine Sodium 25 mcg PO DAILY 
14. Losartan Potassium 50 mg PO DAILY 
15. Magnesium Oxide 400 mg PO BID 
16. Metoprolol Tartrate 12.5 mg PO BID 
17. Pantoprazole 40 mg PO Q24H 
18. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
19. Rivaroxaban 10 mg PO DAILY 
20. Senna 8.6 mg PO BID:PRN constipation 
21. Sucralfate 1 gm PO TID:PRN upset stomach with meals 
22. TraZODone 300 mg PO QHS 
23. ZIPRASidone Hydrochloride 40 mg PO BID 
24. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
25. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
26. melatonin 2.5 mg oral QHS:PRN 
27. MetFORMIN (Glucophage) 1000 mg PO BID 
28. Glargine 75 Units Breakfast
Glargine 75 Units Bedtime
29. ibrutinib 420 mg oral DAILY 
30. Lidocaine 5% Patch 3 PTCH TD QAM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Glargine 50 Units Breakfast
Glargine 50 Units Bedtime 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  Acyclovir 400 mg PO Q8H  
5.  Atorvastatin 80 mg PO QPM  
6.  CloNIDine 0.1 mg PO TID  
7.  Divalproex (EXTended Release) 500 mg PO QAM  
8.  Divalproex (EXTended Release) 750 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID constipation  
10.  Fenofibrate 150 mg PO DAILY  
11.  FLUoxetine 20 mg PO DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 300 mg PO TID  
14.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
15.  ibrutinib 420 mg oral DAILY  
16.  Levothyroxine Sodium 25 mcg PO DAILY  
17.  Lidocaine 5% Patch 3 PTCH TD QAM  
18.  Losartan Potassium 50 mg PO DAILY  
19.  Magnesium Oxide 400 mg PO BID  
20.  melatonin 2.5 mg oral QHS:PRN  
21.  MetFORMIN (Glucophage) 1000 mg PO BID  
22.  Metoprolol Tartrate 12.5 mg PO BID  
23.  Pantoprazole 40 mg PO Q24H  
24.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
25.  Rivaroxaban 10 mg PO DAILY  
26.  Senna 8.6 mg PO BID:PRN constipation  
27.  Sucralfate 1 gm PO TID:PRN upset stomach with meals  
28.  TraZODone 300 mg PO QHS  
29.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
GI bleed, likely lower
Acute blood-loss anemia
Type-2 insulin-dependent diabetes mellitus complicated by 
hypoglycemia
Difficult bowel prep

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You are admitted to the hospital for evaluation of bleeding from 
the rectum. You are on a number of medications that can increase 
your risk of bleeding. We contacted your cardiologist Dr. ___ 
___ agrees with stopping Plavix (clopidogrel), since it has been 
more than 12 months since you had a stent placed.

You required a very prolonged preparation for your colonoscopy, 
which showed 2 polyps. They were removed.

Please monitor your blood sugars very closely at home, and call 
your primary doctor if you have any sugars over 300 or lower 
than 70. Your sugars were very low here so we decreased your 
lantus to 50 units twice a day, but once you restart your 
regular diet you may need to increase your insulin back to 75 
units twice a day. 

***Please note the adjustments to your medications on the 
medication reconciliation sheet***

It was a pleasure taking care of you!
-Your ___ team
 
Followup Instructions:
___